US06316482B1
To a stirred solution of 4-(2,3-diaminobenzoyl)amino-3-methoxy-N-methyl-N-[4-methyl-2-[5-(4-methylpiperazin-1-yl)carbonylpent-1-yloxy]phenyl]benzamide (145 mg) in a mixture of acetonitrile and benzene [1:4(v/v)] was added methoxycarbonyl isothiocyanate (36 mg) and the reaction mixture was stirred at ambient temperature for 5 minutes. After being added 1,3-dicyclohexylcarbodiimide (73 mg) to the solution, the resulting mixture was stirred at reflux temperature for 5 hours. The reaction mixture was concentrated in vacuo and the residue was dissolved in chloroform. The solution was washed with saturated aqueous sodium bicarbonate solution, water and brine, dried over magnesium sulfate and evaporated in vacuo. The residue was purified by chromatography on silica gel (chromatorex) eluting with chloroform and preparative thin-layer chromatography (chloroform-methanol=10:1) to give 3-methoxy-4-(2-methoxycarbonylamino-1H-benzimidazol-4-yl)carbonylamino-N-methyl-N-[4-methyl-2-[5-(4-methylpiperazin-1-yl)carbonylpent-1-yloxy]phenyl]benzamide (82 mg) as a powder.

reactant | 4-(2,3-diaminobenzoyl)amino-3-methoxy-N-methyl-N-[4-methyl-2-[5-(4-methylpiperazin-1-yl)carbonylpent-1-yloxy]phenyl]benzamide | 145 mg | NC1=C(C(=O)NC2=C(C=C(C(=O)N(C3=C(C=C(C=C3)C)OCCCCCC(=O)N3CCN(CC3)C)C)C=C2)OC)C=CC=C1N | C34H44N6O5
reactant | methoxycarbonyl isothiocyanate | 36 mg | COC(=O)N=C=S | C3H3NO2S
reactant | 1,3-dicyclohexylcarbodiimide | 73 mg | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
solvent | acetonitrile | C(C)#N | C2H3N
solvent | benzene | C1=CC=CC=C1 | C6H6
product | 3-methoxy-4-(2-methoxycarbonylamino-1H-benzimidazol-4-yl)carbonylamino-N-methyl-N-[4-methyl-2-[5-(4-methylpiperazin-1-yl)carbonylpent-1-yloxy]phenyl]benzamide | 82 mg | COC=1C=C(C(=O)N(C2=C(C=C(C=C2)C)OCCCCCC(=O)N2CCN(CC2)C)C)C=CC1NC(=O)C1=CC=CC=2NC(=NC21)NC(=O)OC | C37H45N7O7
